US07393844B2
To a flame-dried 100 mL round-bottomed flask, was added dry THF (15 mL). The solution was cooled to −78° C. before diisopropylamine (460 μL, 3.28 mmol), 2.5 M n-butyllithium in hexane (1.31 mL, 3.28 mmol), and a solution of 3,5-dibromo-2-methoxy-6-(trifluoromethyl)pyridine (1.00 g, 2.99 mmol) in dry THF (10 mL), were added sequentially. The reaction mixture was stirred at −78° C. for 10 min before methyl formate (276 μL, 4.49 mmol) was slowly added. After the reaction was stirred for another 2 hr, the mixture was warmed and stirred for 30 min at room temperature. Then the mixture was quenched with saturated ammonium chloride solution, extracted with EtOAc, washed by water and brine, dried over Na2SO4, and concentrated. The residue was purified by flash column chromatography (silica gel, 15% EtOAc/hexanes) to yield 3,5-dibromo-2-methoxy-6-(trifluoromethyl)isonicotinaldehyde (985 mg, 90.5%). 1H-NMR (400 MHz, CDCl3) δ 10.10 (s, 1H), 4.11 (s, 3H).

reactant | diisopropylamine | 3.28 mmol, 460 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 3.28 mmol, 1.31 mL | CCCCCC | C6H14
reactant | 3,5-dibromo-2-methoxy-6-(trifluoromethyl)pyridine | 2.99 mmol, 1.00 g | BrC=1C(=NC(=C(C1)Br)C(F)(F)F)OC | C7H4Br2F3NO
reactant | methyl formate | 4.49 mmol, 276 μL | C(=O)OC | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3,5-dibromo-2-methoxy-6-(trifluoromethyl)isonicotinaldehyde | 985 mg, 90.5% | BrC1=C(C=O)C(=C(N=C1OC)C(F)(F)F)Br | C8H4Br2F3NO2
